* D:\eSim\eSim_Projects\Audio_Amplifier\Audio_Amplifier.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 10/07/22 19:58:14

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
X2  Net-_X2-Pad1_ GND GND Net-_SC10-Pad2_ Net-_SC11-Pad1_ GND avsd_opamp		
X4  Net-_X4-Pad1_ GND Net-_SC14-Pad1_ Net-_SC12-Pad1_ Net-_SC17-Pad1_ GND avsd_opamp		
X3  Net-_X3-Pad1_ GND Net-_SC18-Pad1_ GND Net-_SC18-Pad2_ GND avsd_opamp		
U12  Net-_SC18-Pad2_ Net-_U12-Pad2_ adc_bridge_1		
U16  Net-_U12-Pad2_ Net-_U13-Pad1_ not_gate		
U13  Net-_U13-Pad1_ Net-_U10-Pad1_ not_gate		
U10  Net-_U10-Pad1_ Net-_U10-Pad2_ not_gate		
U7  Net-_U10-Pad2_ Net-_U1-Pad1_ not_gate		
U14  Net-_U14-Pad1_ Net-_U11-Pad1_ not_gate		
U11  Net-_U11-Pad1_ Net-_U11-Pad2_ not_gate		
U9  Net-_U11-Pad2_ Net-_U6-Pad1_ not_gate		
U6  Net-_U6-Pad1_ Net-_U2-Pad1_ not_gate		
U15  Net-_U12-Pad2_ Net-_U14-Pad1_ not_gate		
U2  Net-_U2-Pad1_ Net-_SC21-Pad1_ dac_bridge_1		
U1  Net-_U1-Pad1_ Net-_SC20-Pad1_ dac_bridge_1		
v3  Net-_X2-Pad1_ GND DC		
v2  Net-_X1-Pad1_ GND DC		
v5  Net-_X4-Pad1_ GND DC		
v4  Net-_X3-Pad1_ GND DC		
v1  vi GND sine		
U3  vo2 plot_v1		
U4  vo1 plot_v1		
U5  vi plot_v1		
SC1  GND vo2 sky130_fd_pr__cap_mim_m3_1 		
SC10  Net-_SC10-Pad1_ Net-_SC10-Pad2_ sky130_fd_pr__cap_mim_m3_1 
SC2  vo1 vo2 sky130_fd_pr__cap_mim_m3_1 
scmode1  SKY130mode		
SC3  vo1 GND sky130_fd_pr__cap_mim_m3_1		
SC7  GND Net-_SC5-Pad1_ GND sky130_fd_pr__res_generic_nd 
SC4  Net-_SC4-Pad1_ vo2 GND sky130_fd_pr__res_generic_nd 
SC5  Net-_SC5-Pad1_ vo1 GND sky130_fd_pr__res_generic_nd 
X1  Net-_X1-Pad1_ GND Net-_SC5-Pad1_ Net-_SC4-Pad1_ first_op GND avsd_opamp
SC6  Net-_SC4-Pad1_ vi GND sky130_fd_pr__res_generic_nd 
SC8  first_op Net-_SC4-Pad1_ GND sky130_fd_pr__res_generic_nd 
SC9  Net-_SC10-Pad1_ first_op GND sky130_fd_pr__res_generic_nd		
SC11  Net-_SC11-Pad1_ Net-_SC10-Pad2_ GND sky130_fd_pr__res_generic_nd		
SC12  Net-_SC12-Pad1_ Net-_SC11-Pad1_ GND sky130_fd_pr__res_generic_nd 
SC13  Net-_SC12-Pad1_ vo2 GND sky130_fd_pr__res_generic_nd	
SC14  Net-_SC14-Pad1_ vo1 GND sky130_fd_pr__res_generic_nd		
SC17  Net-_SC17-Pad1_ Net-_SC12-Pad1_ GND sky130_fd_pr__res_generic_nd 
SC15  Net-_SC14-Pad1_ first_op GND sky130_fd_pr__res_generic_nd		
SC18  Net-_SC18-Pad1_ Net-_SC18-Pad2_ GND sky130_fd_pr__res_generic_nd		
SC19  Net-_SC17-Pad1_ Net-_SC18-Pad1_ GND sky130_fd_pr__res_generic_nd		
SC16  GND Net-_SC14-Pad1_ GND sky130_fd_pr__res_generic_nd		
SC20  Net-_SC20-Pad1_ vo2 sky130_fd_pr__ind_05_125 		
U8  first_op plot_v1		
SC21  Net-_SC21-Pad1_ vo1 sky130_fd_pr__ind_05_125 		

.end
