* d:\esim\esim_projects\audio_amplifier\audio_amplifier.cir

.include avsd_opamp.sub
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.lib "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "D:\FOSSEE\eSim\library\sky130_fd_pr\cells\ind_05\sky130_fd_pr__ind_05_125.model.spice"

x2 net-_x2-pad1_ gnd gnd net-_sc10-pad2_ net-_sc11-pad1_ gnd avsd_opamp
x4 net-_x4-pad1_ gnd net-_sc14-pad1_ net-_sc12-pad1_ net-_sc17-pad1_ gnd avsd_opamp
x3 net-_x3-pad1_ gnd net-_sc18-pad1_ gnd net-_sc18-pad2_ gnd avsd_opamp
* u12  net-_sc18-pad2_ net-_u12-pad2_ adc_bridge_1
* u16  net-_u12-pad2_ net-_u13-pad1_ not_gate
* u13  net-_u13-pad1_ net-_u10-pad1_ not_gate
* u10  net-_u10-pad1_ net-_u10-pad2_ not_gate
* u7  net-_u10-pad2_ net-_u1-pad1_ not_gate
* u14  net-_u14-pad1_ net-_u11-pad1_ not_gate
* u11  net-_u11-pad1_ net-_u11-pad2_ not_gate
* u9  net-_u11-pad2_ net-_u6-pad1_ not_gate
* u6  net-_u6-pad1_ net-_u2-pad1_ not_gate
* u15  net-_u12-pad2_ net-_u14-pad1_ not_gate
* u2  net-_u2-pad1_ net-_sc21-pad1_ dac_bridge_1
* u1  net-_u1-pad1_ net-_sc20-pad1_ dac_bridge_1
v3 net-_x2-pad1_ gnd  dc 1.8
v2 net-_x1-pad1_ gnd  dc 1.8
v5 net-_x4-pad1_ gnd  dc 1.8
v4 net-_x3-pad1_ gnd  dc 1.8
v1  vi gnd sine(1m 1.5 50 0.01m 0.1)
* u3  vo2 plot_v1
* u4  vo1 plot_v1
* u5  vi plot_v1
xsc1 gnd vo2 sky130_fd_pr__cap_mim_m3_1
xsc10 net-_sc10-pad1_ net-_sc10-pad2_ sky130_fd_pr__cap_mim_m3_1 
xsc2 vo1 vo2 sky130_fd_pr__cap_mim_m3_1  
* s c m o d e
xsc3 vo1 gnd sky130_fd_pr__cap_mim_m3_1 
xsc7 gnd net-_sc5-pad1_ gnd sky130_fd_pr__res_generic_nd
xsc4 net-_sc4-pad1_ vo2 gnd sky130_fd_pr__res_generic_nd 
xsc5 net-_sc5-pad1_ vo1 gnd sky130_fd_pr__res_generic_nd
x1 net-_x1-pad1_ gnd net-_sc5-pad1_ net-_sc4-pad1_ first_op gnd avsd_opamp
xsc6 net-_sc4-pad1_ vi gnd sky130_fd_pr__res_generic_nd
xsc8 first_op net-_sc4-pad1_ gnd sky130_fd_pr__res_generic_nd
xsc9 net-_sc10-pad1_ first_op gnd sky130_fd_pr__res_generic_nd
xsc11 net-_sc11-pad1_ net-_sc10-pad2_ gnd sky130_fd_pr__res_generic_nd
xsc12 net-_sc12-pad1_ net-_sc11-pad1_ gnd sky130_fd_pr__res_generic_nd 
xsc13 net-_sc12-pad1_ vo2 gnd sky130_fd_pr__res_generic_nd
xsc14 net-_sc14-pad1_ vo1 gnd sky130_fd_pr__res_generic_nd  
xsc17 net-_sc17-pad1_ net-_sc12-pad1_ gnd sky130_fd_pr__res_generic_nd 
xsc15 net-_sc14-pad1_ first_op gnd sky130_fd_pr__res_generic_nd
xsc18 net-_sc18-pad1_ net-_sc18-pad2_ gnd sky130_fd_pr__res_generic_nd
xsc19 net-_sc17-pad1_ net-_sc18-pad1_ gnd sky130_fd_pr__res_generic_nd 
xsc16 gnd net-_sc14-pad1_ gnd sky130_fd_pr__res_generic_nd  
xsc20 net-_sc20-pad1_ vo2 mid 0 sky130_fd_pr__ind_05_125
* u8  first_op plot_v1
xsc21 net-_sc21-pad1_ vo1  mid 0 sky130_fd_pr__ind_05_125
a1 [net-_sc18-pad2_ ] [net-_u12-pad2_ ] u12
a2 [net-_u12-pad2_ ] [net-_u13-pad1_ ] u16
a3 [net-_u13-pad1_ ] [net-_u10-pad1_ ] u13
a4 [net-_u10-pad1_ ] [net-_u10-pad2_ ] u10
a5 [net-_u10-pad2_ ] [net-_u1-pad1_ ] u7
a6 [net-_u14-pad1_ ] [net-_u11-pad1_ ] u14
a7 [net-_u11-pad1_ ] [net-_u11-pad2_ ] u11
a8 [net-_u11-pad2_ ] [net-_u6-pad1_ ] u9
a9 [net-_u6-pad1_ ] [net-_u2-pad1_ ] u6
a10 [net-_u12-pad2_ ] [net-_u14-pad1_ ] u15
a11 [net-_u2-pad1_ ] [net-_sc21-pad1_ ] u2
a12 [net-_u1-pad1_ ] [net-_sc20-pad1_ ] u1
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u12 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             not_gate, NgSpice Name: not_gate
.model u16 not_gate(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             not_gate, NgSpice Name: not_gate
.model u13 not_gate(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             not_gate, NgSpice Name: not_gate
.model u10 not_gate(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             not_gate, NgSpice Name: not_gate
.model u7 not_gate(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             not_gate, NgSpice Name: not_gate
.model u14 not_gate(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             not_gate, NgSpice Name: not_gate
.model u11 not_gate(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             not_gate, NgSpice Name: not_gate
.model u9 not_gate(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             not_gate, NgSpice Name: not_gate
.model u6 not_gate(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             not_gate, NgSpice Name: not_gate
.model u15 not_gate(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u2 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u1 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 1e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set color2 = red
plot v(vo1)
set color2 = blue
plot v(vi) 


.endc
.end
